US08426414B2
Part D. ((1S,2S)-1-{[[(1R,2R)-2-(5-Fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-(4-hydroxy-phenyl)-amino]-methyl}-2-methyl-butyl)-carbamic acid tert-butyl ester
To a solution of [(1S,2S)-1-({[4-(t-butyl-dimethyl-silanyloxy)-phenyl]-[(1R,2R)-2-(5-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-amino}-methyl)-2-methyl-butyl]-carbamic acid tert-butyl ester (190 mg) in THF (3 mL) was added TBAF in THF (1M, 1 mL) the resulting solution was stirred at rt for 2 h. The reaction mixture was diluted with EtOAc (30 mL) and washed with H2O (2×15 mL) and brine (15 mL). The EtOAc layer was dried (Na2SO4) and concentrated to give the titled compound (102 mg). MS (MH+ 472).

reactant | [(1S,2S)-1-({[4-(t-butyl-dimethyl-silanyloxy)-phenyl]-[(1R,2R)-2-(5-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-amino}-methyl)-2-methyl-butyl]-carbamic acid tert-butyl ester | 190 mg | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)CN(C(=O)[C@H]1[C@@H](C1)C1=NC=C(C=C1)F)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)=O | C32H48FN3O4Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 1M, 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | ((1S,2S)-1-{[[(1R,2R)-2-(5-Fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-(4-hydroxy-phenyl)-amino]-methyl}-2-methyl-butyl)-carbamic acid tert-butyl ester | 102 mg | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)CN(C1=CC=C(C=C1)O)C(=O)[C@H]1[C@@H](C1)C1=NC=C(C=C1)F)=O | C26H34FN3O4
